US05173489
9,9-Bis(4-pyridinylmethyl)-2-aminofluorene
1.68 g (4.27 mmole) of 9,9-bis(4-pyridinylmethyl)-2-nitrofluorene was suspended in 5 ml of ethanol/water (1:1) end 1.43 g of powdered iron was added. The mixture was heated to boiling and 0.3 ml conc. hydrochloric acid was added dropwise. After completion of addition, the mixture was refluxed 2 hrs. The cooled mixture was basified with KOH, iron hydroxide filtered off and the filtrate evaporated. The residue was dissolved in ether-CH2Cl2 (3:1), washed with water, saturated sodium chloride, dried (MgSO4) and evaporated to yield 1.28 g of the title product. NMR (CDCl3, 200 MHz) δ: 3.33 (s,4H), 6.53(dd,4H), 6.60(d,J=2.0Hz,1H), 6.79(d,J=2.0Hz,1H), 7.18(m,4H), 7.37(dd,1H), 8.11(dd,4H), m.p. (trihydrochloride) >300°. HRMS calculated for C25H21N3 : 363.1735 Found: 363.1728.

reactant | 9,9-bis(4-pyridinylmethyl)-2-nitrofluorene | 4.27 mmole, 1.68 g | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)[N+](=O)[O-])CC1=CC=NC=C1 | C25H19N3O2
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | KOH | [OH-].[K+]
solvent | ethanol water | 5 ml | C(C)O.O
catalyst | iron | 1.43 g | [Fe] | Fe
catalyst | iron hydroxide | [OH-].[Fe+2].[OH-]
product | 9,9-Bis(4-pyridinylmethyl)-2-aminofluorene | 1.28 g | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)N)CC1=CC=NC=C1 | C25H21N3
